US05068333
To a solution of 3-bromo-5-chloropyridin-2-one (84.3 g, 0.404 mol) in DMF (100 mL) was added POCl3 (56.5 mL, 0.61 mol) via dropping funnel over 3 hours at room temperature. The resulting black solution was then heated to 70° C. and allowed to stir for 3 days. After cooling to room temperature, the solution was poured into 1 L of ice/water, filtered, and the solid dried in a vacuum oven to provide 81.76 g (89%) of the desired 3-bromo-2,5-dichloropyridine as an off-white solid, m.p. 39-41° C.: IR(CHCl3) 3867, 3663, 2989, 2734, 1812, 1606, 1547, 1400, 1366, 1230, 1155, 1129, 1074, 1027, 894, 658, 563 cm-1 ; 1H NMR (300 MHz, CDCl3) δ 8.0 (d, 1H, J=2.2 Hz), 8.35 (d, 1H, J=2.2 Hz); 13C NMR (CDCl3) δ 120.43, 130.74, 141.46, 146.64, 148.99; exact mass calculated for C5H2NBrCl2 =224.8748; high resolution mass spec. 224.8764.

reactant | 3-bromo-5-chloropyridin-2-one | 0.404 mol, 84.3 g | BrC=1C(NC=C(C1)Cl)=O | C5H3BrClNO
reactant | POCl3 | 0.61 mol, 56.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2,5-dichloropyridine | 81.76 g, 89% | BrC=1C(=NC=C(C1)Cl)Cl | C5H2BrCl2N
